US06242450B1
1-(3-(3,4-dimethylphenoxy)prop-1-yl)-4-hydroxy-4-(quinolin-3-yl)piperidine
Beginning with 0.218 gm (1.1 mMol) 3-chloropropyl 3,4-dimethylphenyl ether and 0.250 gm (1.1 mMol) 4-hydroxy-4-(quinolin-3-yl)piperidine, 0.114 gm (27%) of the title compound were recovered as a white solid.

reactant | 3-chloropropyl 3,4-dimethylphenyl ether | 1.1 mMol, 0.218 gm | CC=1C=C(C=CC1C)OCCCCl | C11H15ClO
reactant | 4-hydroxy-4-(quinolin-3-yl)piperidine | 1.1 mMol, 0.250 gm | OC1(CCNCC1)C=1C=NC2=CC=CC=C2C1 | C14H16N2O
product | 1-(3-(3,4-dimethylphenoxy)prop-1-yl)-4-hydroxy-4-(quinolin-3-yl)piperidine | 0.114 gm, 27% | CC=1C=C(OCCCN2CCC(CC2)(C=2C=NC3=CC=CC=C3C2)O)C=CC1C | C25H30N2O2
